US04282361
Preparation of Ethyl 3-Methyl-4-Nitropyrazole-5-Carboxylate
A solution of 3-methyl-4-nitropyrazole-5-carboxylic acid (70.4 g, 0.41 mol) in ethanol (300 ml) was saturated with hydrogen chloride prepared from the combination of concentrated hydrochloric acid (430 ml) and concentrated sulphuric acid (430 ml) at 0°. After standing overnight at room temperature, the reaction mixture was evaporated to dryness yielding 77.1 g (94%) of an oil which crystallized after seeding, m.p. 81°-86°.

reactant | 3-methyl-4-nitropyrazole-5-carboxylic acid | 0.41 mol, 70.4 g | CC1=NNC(=C1[N+](=O)[O-])C(=O)O | C5H5N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloric acid | 430 ml | Cl | ClH
reactant | sulphuric acid | 430 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | Ethyl 3-Methyl-4-Nitropyrazole-5-Carboxylate | 77.1 g, 94% | CC1=NNC(=C1[N+](=O)[O-])C(=O)OCC | C7H9N3O4
